US08134013B2
39-b) 3-(5-{1-[4-Hydroxy-5-(4-trifluoromethylphenyl)thiophen-3-yl]ethylidenehydrazinocarbonyl}-N-methylthiophene-2-carboxamido)propionic acid
t-Butyl 3-(5-{1-[4-Hydroxy-5-(4-trifluoromethylphenyl)thiophen-3-yl]ethylidenehydrazinocarbonyl}-N-methylthiophene-2-carboxamido)propionate (30 mg, 0.05 mmol) was stirred with trifluoroacetic acid (300 μL) at room temperature for 15 minutes. The reaction solution was concentrated, and after addition of ether the resulting solid was collected by filtration to give the desired product (yield 56%).

reactant | t-Butyl 3-(5-{1-[4-Hydroxy-5-(4-trifluoromethylphenyl)thiophen-3-yl]ethylidenehydrazinocarbonyl}-N-methylthiophene-2-carboxamido)propionate | 0.05 mmol, 30 mg | OC=1C(=CSC1C1=CC=C(C=C1)C(F)(F)F)C(C)=NNC(=O)C1=CC=C(S1)C(=O)N(C)CCC(=O)OC(C)(C)C | C27H28F3N3O5S2
solvent | trifluoroacetic acid | 300 μL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(5-{1-[4-Hydroxy-5-(4-trifluoromethylphenyl)thiophen-3-yl]ethylidenehydrazinocarbonyl}-N-methylthiophene-2-carboxamido)propionic acid | yield 56% | OC=1C(=CSC1C1=CC=C(C=C1)C(F)(F)F)C(C)=NNC(=O)C1=CC=C(S1)C(=O)N(C)CCC(=O)O | C23H20F3N3O5S2
